US08748624B2
STEP A: Ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate
Ethyl 3-(5-bromopicolinamido)propanoate (2.2 g, 7.3 mmol), (5-chloro-2-formylphenyl)boronic acid (1.4 g, 7.7 mmol), Pd(dppf)Cl2 (810 mg, 1.1 mmol), and K2CO3 (2.3 g, 16.9 mmol) and PdCl2(dppf) were dissolved in wet DMF (10 mL) and the resulting mixture was heated to 90° C. After 16 h the resulting mixture was cooled to room temperature, filtered through CELITE and the filtrate was diluted with EtOAc, washed with water and sat. aqueous NaHCO3. The organic layer was dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-bromopicolinamido)propanoate | 7.3 mmol, 2.2 g | BrC=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C11H13BrN2O3
reactant | (5-chloro-2-formylphenyl)boronic acid | 7.7 mmol, 1.4 g | ClC=1C=CC(=C(C1)B(O)O)C=O | C7H6BClO3
reactant | K2CO3 | 16.9 mmol, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 1.1 mmol, 810 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C=O | C18H17ClN2O4
